US04434175
Step E: Preparation of 1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)pyrrole-2-acetic acid
Following substantially the same procedures as described in Example 7, steps B, C and D, 10 g of ethyl-1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)-3-ethoxycarbonylpyrrole-2-acetate was converted in three steps to 6.3 g of 1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-yl)pyrrole-2-acetic acid.

reactant | ethyl-1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)-3-ethoxycarbonylpyrrole-2-acetate | 10 g | C(C)OC(CC=1N(C(=C(C1C(=O)OCC)C)C(=O)C=1N(C(=CC1)SC)C)C)=O | C20H26N2O5S
reactant | 1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-yl)pyrrole-2-acetic acid | 6.3 g | CN1C(=CC(=C1C=1N(C(=CC1)SC)C)C)CC(=O)O | C14H18N2O2S
product | 1,4-dimethyl-5-(1-methyl-5-methylthiopyrrol-2-oyl)pyrrole-2-acetic acid | CN1C(=CC(=C1C(=O)C=1N(C(=CC1)SC)C)C)CC(=O)O | C15H18N2O3S
